US09259470B2
A mixture of benzyl 2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate (0.05 g, 2.0 mmol) and Pd/C (10%, 50 mg) in methanol (20 mL) was stirred under hydrogen atmosphere (1 atm) at room temperature for 16 hours. After completion of the reaction, the mixture was filtered through Celite®. The filtrate was concentrated under reduced pressure to afford 5-amino-2-oxa-bicyclo[2.2.1]heptan-3-one (360 mg, over 100%), which was used in the next step without further purification. LCMS (ESI) m/z: 128.1 [M+H]+.

reactant | benzyl 2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate | 2.0 mmol, 0.05 g | C12OCC(C(C1)NC(OCC1=CC=CC=C1)=O)C2 | C14H17NO3
reactant | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5-amino-2-oxa-bicyclo[2.2.1]heptan-3-one | 360 mg, 100% | NC1C2C(OC(C1)C2)=O | C6H9NO2
